US07625932B2
Preparation of 4-cyano-3-iodo-1,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester
Add isoamylnitrite (2.5 Eq.) to 3-amino-4-cyano-1,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester (prepared in preparation 44) and diiodomethane (3.5 eq.) in acetonitrile (10 mL) with stirring at 55° C. under a nitrogen atmosphere. Slowly heat the reaction mixture to 75° C. and heat at this temperature for 3 hours. Cool to room temperature and pour into water, and extract the quenched reaction with ethyl acetate. Wash the organic extracts with water, dry over potassium carbonate, filter, and concentrate under reduced vacuum. Purify the residue by silica gel chromatography (Prep.2000) eluting with methylene chloride to provide a solid. Recrystallize from ethyl acetate to provide the title compound as crystals. Mass spectrum (m/e): 318.0 M*). (Bruker 300) 1H NMR (CDCl3) 4.31-4.38 (2H, dd), 3.83-3.86 (3H, s), 2.41-2.44 (3H, s), 1.40-1.44 (3H, t).

reactant | isoamylnitrite | 2.5 Eq. | C(CC(C)C)ON=O | C5H11NO2
reactant | 3-amino-4-cyano-1,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1N)C#N)C)C | C10H13N3O2
reactant | diiodomethane | 3.5 eq. | ICI | CH2I2
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-cyano-3-iodo-1,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1I)C#N)C)C | C10H11IN2O2
